### PR TITLE
[Merged by Bors] - feat(Analysis/InnerProductSpace/LinearPMap): the adjoint is closed

### PR DESCRIPTION
**Pull request by mcdoll**
Define the graph of the adjoint and prove that the adjoint operator is always closed.

---

- [x] depends on: #6136 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Prod.lean [hunk 1]
```diff
@@ -759,6 +759,36 @@ theorem snd_comp_prodComm :
...
+  right_inv _ := by
+    simp
+
+variable {R M N}
+
+@[simp]
+theorem skewSwap_apply (x : M × N) : LinearEquiv.skewSwap R M N x = (-x.2, x.1) := rfl
+
+@[simp]
+theorem skewSwap_symm_apply (x : N × M) : (LinearEquiv.skewSwap R M N).symm x = (x.2, -x.1) := rfl
```
Comment (ADedecker) [inline Mathlib/LinearAlgebra/Prod.lean:788]: Can't you ask `@[simps]` to make these?

Comment (mcdoll) [reply Mathlib/LinearAlgebra/Prod.lean:788]: how do I get `R`, `M`, and `N` to be implicit in `@[simps]`?

File: Mathlib/Analysis/InnerProductSpace/LinearPMap.lean [hunk 2]
```diff
@@ -268,3 +270,90 @@ theorem _root_.IsSelfAdjoint.dense_domain (hA : IsSelfAdjoint A) : Dense (A.doma
 end LinearPMap
 
 end Star
+
+/-! ### The graph of the adjoint -/
+
+namespace Submodule
+
+/-- The adjoint of a submodule -/
```
Comment (sgouezel) [inline Mathlib/Analysis/InnerProductSpace/LinearPMap.lean:278]: This definition is a little bit misleading, as you are using the product space `E × F` which has the sup norm, but instead you're using the `L^2` distance. Options would be either to use `WithLp.prod 2 E F` (whatever the correct spelling) (but I am not sure it's a good idea, since you work with graphs all the time and these are defined using the regular product), or to emphasize this difficulty and the conscious design choice to still use `E × F` in the docstring.

Comment (mcdoll) [reply Mathlib/Analysis/InnerProductSpace/LinearPMap.lean]: I would like to leave the code as it is for now, because everything for graphs is in terms of `E × F`. If it turns out that we use `WithLp` more, then I am happy to revisit this.

File: Mathlib/Analysis/InnerProductSpace/LinearPMap.lean [hunk 3]
```diff
@@ -268,3 +270,93 @@ theorem _root_.IsSelfAdjoint.dense_domain (hA : IsSelfAdjoint A) : Dense (A.doma
...
+
+theorem adjoint_isClosed (hT : Dense (T.domain : Set E)) :
+    T†.IsClosed := by
+  rw [IsClosed, adjoint_graph_eq_graph_adjoint hT, Submodule.adjoint]
+  simp only [Submodule.map_coe, WithLp.linearEquiv_apply]
+  rw [Equiv.image_eq_preimage]
+  exact (Submodule.isClosed_orthogonal _).preimage (WithLp.prod_continuous_equiv_symm _ _ _)
+
+/-- Every self-adjoint `LinearPMap` is closed. -/
+theorem _root_.IsSelfAdjoint.isClosed {A : E →ₗ.[𝕜] E} (hA : IsSelfAdjoint A) : A.IsClosed := by
```
Comment (sgouezel) [inline Mathlib/Analysis/InnerProductSpace/LinearPMap.lean:358]: can you mention these in the file-level docstring?

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

**Comment by mcdoll** [comment]
bors merge
